US06294558B1
[3-Fluoro-4-(methylsulfanyl)phenyl]methanol (Step 1)
The mixture of 3-fluoro-4-(methylsulfanyl)benzaldehyde (19.44 g, 114.2 mmol) and sodium borohydride (2.1 g, 55.46 mmol) in methanol (200 mL) was stirred at room temperature for 2 hour. Water was added to the mixture, and the mixture was evaporated, diluted with ethyl acetate (300 mL), washed with water (100 mL), dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate/hexane (1/4) to provide the subtitle compound (19.91 g, 100% yield) as an oil.

reactant | 3-fluoro-4-(methylsulfanyl)benzaldehyde | 114.2 mmol, 19.44 g | FC=1C=C(C=O)C=CC1SC | C8H7FOS
reactant | sodium borohydride | 55.46 mmol, 2.1 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | [3-Fluoro-4-(methylsulfanyl)phenyl]methanol | 19.91 g, 100% yield | FC=1C=C(C=CC1SC)CO | C8H9FOS
